### PR TITLE
mathlib & lean version bump

### PR DESCRIPTION
**Pull request by ooovi**

### CODE REVIEW

File: ExponentialRamsey/Prereq/Constructive.lean [hunk 1]
```diff
@@ -106,13 +106,12 @@ theorem isRamseyValid_myOtherLabelling'_zero {α : Type*} [Fintype α] [Decidabl
...
     rw [myOtherLabelling', TopEdgeLabelling.mk_get] at this
-    simp only[eq_self_iff_true, true_or, if_true, Fin.one_eq_zero_iff,
-      Nat.succ_succ_ne_one] at this
+    simp only [true_or, if_true, Fin.one_eq_zero_iff, Nat.succ_succ_ne_one] at this
   have : ∀ i ∈ (Finset.univ : Finset α), (Finset.filter (fun x : _ × Fin l => x.fst = i) m).card = 1 :=
     by
     rw [← Finset.sum_eq_sum_iff_of_le this, ← Finset.card_eq_sum_ones, Finset.card_univ,
         ← Finset.card_eq_sum_card_fiberwise, ← hm']
-    simp only [Finset.mem_univ, imp_true_iff]
+    intro x xm; simp only [Finset.coe_univ, Set.mem_univ]
```
Comment (b-mehta) [inline ExponentialRamsey/Prereq/Constructive.lean:114]:
```suggestion
    simp +contextual only [Finset.coe_univ, Set.mem_univ]
```
does this work?

File: ExponentialRamsey/Prereq/Mathlib/Analysis/Calculus/Taylor.lean [hunk 2]
```diff
@@ -98,11 +78,12 @@ theorem taylor_mean_remainder_lagrange_unordered {f : ℝ → ℝ} {x x₀ : ℝ
...
-  rw [← mul_assoc (n ! : ℝ), ← Nat.cast_add_one, ← Nat.cast_mul, mul_comm (n !), ← n.factorial_succ]
-  ring
-
+  rw [← Nat.cast_add_one, ← Nat.cast_mul, mul_comm (n !), ← n.factorial_succ]
+  norm_num
+  ring_nf
+  repeat rw [mul_inv_cancel_right₀ (Nat.cast_ne_zero.mpr (Nat.factorial_ne_zero (1 + n)))]
 
--- x' should be in uIoo x₀ x
+-- x' should be in uIooL x₀ x
```
Comment (b-mehta) [inline ExponentialRamsey/Prereq/Mathlib/Analysis/Calculus/Taylor.lean:86]:
```suggestion
-- x' should be in uIoo x₀ x
```

**Review by b-mehta — APPROVED** [review]
Really nice, thanks!
I had only two small comments, otherwise this looks excellent.

**Comment by b-mehta** [comment]
Thank you!

File: ExponentialRamsey/Prereq/Constructive.lean (hunk 1 above)
Comment (ooovi) [reply ExponentialRamsey/Prereq/Constructive.lean]: ooo nice, i know a lot of places in my own code where this trick will come in handy!
